US04278672
In 300 ml of anhydrous dichloromethane, 13.0 g (0.1 mole) of 1,1-diethyl-3-methylurea and 12.0 g (0.1 mole) of phenylisocyanate were dissolved. Under cooling the mixture with stirring, 26.0 g (0.1 mole) of stannic chloride was added dropwise. The reaction was continued at a room temperature for 15 hours and the reaction mixture was treated by a procedure similar to that of mentioned in Example 1, and recrystallized from ethanol-petroleum ether to obtain 19.7 g (yield 79%) of 1,1-diethyl-3-methyl-5-phenylbiuret having a melting point of 88°-89.5° C.

reactant | 1,1-diethyl-3-methylurea | 0.1 mole, 13.0 g | C(C)N(C(=O)NC)CC | C6H14N2O
reactant | phenylisocyanate | 0.1 mole, 12.0 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 1,1-diethyl-3-methyl-5-phenylbiuret | 19.7 g, yield 79% | C(C)N(C(=O)N(C(=O)NC1=CC=CC=C1)C)CC | C13H19N3O2
